*****************************************************************
* NXP BUK9Y7R6-40E
*
* Polarity N-Channel
* Ratings 40V/7.600000E-003OHMS/78.8337636915277A
*
* Date Created Tue Feb 05 08:47:52 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y7R6-40E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 3e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 5.3e-10
RLS2 SOURCE 8 1.33203528512207
RLS1 8 7 0.0002

RDS 7 4 40000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00431957796072997 TC=0.00412301883543776,1.75427810833859E-05
RBD 9 4 0.00170601264972683 TC=0.00412301883543776,1.75427810833859E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 1.53540326798161e-09
RG 1 2 1.97663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	1771.11
+ -10	1769.66
+ -8	1767.29
+ -6	1763.13
+ -5	1759.33
+ -4	1752.48
+ -3	1733.24
+ -2	1585.96
+ -1	938.449
+ -0.5	671.909
+ -0.2	532.605
+ -0.1	529.083
+ 0	468.72094
+ 0.1	391.79288
+ 0.2	391.3834
+ 0.5	326.20504
+ 1	276.52348
+ 2	229.49164
+ 3	204.65596
+ 4	187.33636
+ 5	174.23084
+ 6	164.84736
+ 8	153.2528
+ 10	146.59868
+ 12	142.13028
+ 15	137.16572
+ 16	135.697
+ 20	130.78072
+ 25	125.79604
+ 32	120.43612



.MODEL MINT NMOS(Vto=2.08368450779267 Kp=1.951144e+002 Nfs=400000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=4e-13
+ N=1 M=0.56 VJ=0.57 Fc=0.5 Cjo=1.09419412e-09 Tt=8.576e-09)

.ENDS

